.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1205POC-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1205POC-682_freq port1 port2 PARAMS: Cpar=0.092pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.36
+ C= {Cpar}
+ K1=0.00000255
+ K2=0.62
+ K3= {Ind}
+ K4=0.228
+ K5=0.00000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9215.076732
.ends 1205POC-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1205POC-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1205POC-682_imp port1 port2 PARAMS: Cpar=0.075pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.36
+ C= {Cpar}
+ K1=0.00000255
+ K2=0.62
+ K3= {Ind}
+ K4=0.228
+ K5=0.00000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9215.076732
.ends 1205POC-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1205POC-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1205POC-103_freq port1 port2 PARAMS: Cpar=0.092pF Ind=12uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.9
+ C= {Cpar}
+ K1=0.00000255
+ K2=1
+ K3= {Ind}
+ K4=0.409
+ K5=0.0000019
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12953.85255
.ends 1205POC-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1205POC-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1205POC-103_imp port1 port2 PARAMS: Cpar=0.074pF Ind=12uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.9
+ C= {Cpar}
+ K1=0.00000255
+ K2=1
+ K3= {Ind}
+ K4=0.409
+ K5=0.0000019
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12953.85255
.ends 1205POC-103_imp

